US07906517B2
5-Methoxy-2-nitro-4-trifluoromethyl-phenol (5 g) and pyridine (2.6 ml) are dissolved in methylene chloride (150 ml), and the mixture is cooled to 0° C., and thereto is added trifluoromethane sulfonic anhydride (5.3 ml) and the mixture is stirred at room temperature overnight. To the reaction solution are added a saturated aqueous sodium bicarbonate solution and chloroform, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→4:1) to give trifluoromethanesulfonic acid 5-methoxy-2-nitro-4-trifluoromethyl-phenyl ester (5.3 g).

reactant | 5-Methoxy-2-nitro-4-trifluoromethyl-phenol | 5 g | COC=1C(=CC(=C(C1)O)[N+](=O)[O-])C(F)(F)F | C8H6F3NO4
reactant | pyridine | 2.6 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethane sulfonic anhydride | 5.3 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | trifluoromethanesulfonic acid 5-methoxy-2-nitro-4-trifluoromethyl-phenyl ester | 5.3 g | COC=1C(=CC(=C(C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C(F)(F)F | C9H5F6NO6S
